* 6G2 (Brown Princeton-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published 6G2
* (H-FA) drawing's component values (see meta.yaml); no drawing reproduced.
* The drawing labels the first bottle 7025 — an alias for the 12AX7
* (reference/tubes/12ax7.yaml also_known_as) — so V1 uses the clean-room
* 12AX7 model.
*
* DC conventions. One rail is driven: BP = +315 V, the 5Y3GT reservoir, which
* is also the output-transformer centre tap and the tremolo oscillator's own
* plate supply. Everything below it is DERIVED through the drawing's own
* droppers, so the simulated screen and preamp/PI rails are predictions
* checked against the printed chart, not inputs: 1000 Ohm-1W to the +312 V
* screen node (BS), then 10k-1W to the +280 V preamp/PI node (BD). The 6V6
* plates sit on BP directly (output-transformer primary DCR omitted, matching
* every other push-pull amp in this corpus).
*
* The fixed-bias supply — a 100k-5% feed off one HT leg, a rectifier, a
* 25 uF/50 V can and a 30k-5% bleeder — is replaced by an ideal -35 V source,
* exactly as its AC/ripple-filtering role warrants.
*
* EXCLUDED — the tremolo oscillator, the second section of the 12AX7 that
* also carries the cathodyne (V2B). It is a running phase-shift oscillator: a
* dynamic average, not a static quiescent point, so it is reported in
* notes.md rather than modelled. Its 220k plate load taps the DRIVEN node BP
* (the drawing's boxed-X reservoir tap) directly, and its output reaches the
* bias line only through a 0.1 uF cap, so leaving it out changes nothing
* downstream.
*
* Each 6V6 grid sits behind a 1500 ohm stopper on a coupler node that a
* 220k 5% leak returns to the -35 V bias line — the Intensity pot's wiper.
* The pot's other two ends are the -35 V bias supply on one side and the
* (AC-only, capacitor-coupled) oscillator output on the other. Because the
* output grids draw no DC grid current, no current flows through the leaks
* or the pot — their values, and the Intensity setting, move no operating
* point — so the grids sit at exactly -35 V.
*
* Global negative feedback: a 56k resistor runs from the speaker line (the
* output transformer's secondary) back to V1B's cathode, which the drawing
* leaves unbypassed. The speaker line sits at ~0 V DC through the secondary,
* folded into ground here, so at DC the 56k is a second path to ground in
* parallel with V1B's 1.5k cathode resistor (1461 ohm together).
*
* DC-open caps are MODELLED where BOTH leads land on a named DC node (V1A's
* cathode-bypass can, the driver-to-cathodyne coupler, and the cathodyne's
* two output couplers — the plate coupler and the tail-junction coupler,
* matching the 5F10's own cathodyne wiring) so the board layout is placement-
* checked; open at DC they move no operating point. The input-stage coupler
* into the abstracted volume/tone network stays omitted, as does the tone/
* volume network itself — the driver grid sees it only as a DC return to
* ground (no grid current, so the pot's own resistance is not load-bearing).
.include models/12ax7.inc
.include models/6v6gt.inc

VBP BP 0 DC 315
VBIAS NBIAS 0 DC -35

* rail chain: reservoir -> 1000R-1W -> screens (BS) -> 10k-1W -> preamp/PI (BD)
RD1 BP BS 1000
RD2 BS BD 10k

* --- V1A (7025 = 12AX7), input stage: two jacks share a 68k stopper each into
*     a 1M grid leak; 100k plate load off BD; 1.5k cathode with a 25 uF bypass.
RL1 BD PA 100k
XV1A PA GA KA 12AX7
RG1 GA 0 1meg
RK1 KA 0 1.5k
C1 KA 0 25u

* --- V1B (7025), second stage: the same 100k plate load and 1.5k cathode
*     resistor, but the cathode is UNBYPASSED (the drawing's 25-25 belongs
*     to V1A alone) because the global negative feedback lands on it: RNFB,
*     56k from the speaker line (~0 V DC — see the header). Its grid sits on
*     the abstracted Tone/Volume network — no grid current flows, so it is
*     tied to ground through a nominal 1M rather than simulating the pot
*     network itself (the network's own caps are DC-open into an unmodelled
*     node and are correspondingly omitted).
RL2 BD PB 100k
XV1B PB GB KB 12AX7
RG2 GB 0 1meg
RK2 KB 0 1.5k
RNFB KB 0 56k

* --- V2A cathodyne phase inverter (12AX7, shares its bottle with the
*     tremolo oscillator, V2B, excluded below): 56k plate load off BD; a
*     small cathode resistor into a tail junction (JPI); 56k tail-to-ground;
*     the 1M grid leak returns to the TAIL, not ground, so the grid floats at
*     the tail's own DC level (no grid current -> no drop across the leak) —
*     the same wiring the 5F10 Harvard and the AA964 Princeton (this circuit's
*     own descendant) both use for their cathodynes.
RL3 BD PPI 56k
XV2A PPI GPI KPI 12AX7
RKA KPI JPI 1500
RKB JPI 0 56k
RGPI GPI JPI 1meg
C6 PB GPI 0.02u

* --- Output pair 6V6GT (fixed bias): each coupler lands on its own node
*     (N61, N62) with a 220k 5% leak to the -35 V line and a 1500 ohm grid
*     stopper to the grid; screens on the +312 V node BS; cathodes grounded;
*     plates on BP. Two distinct single-ended bottles V3 / V4, one driven
*     from the cathodyne's plate output, the other from its tail junction.
XV3 BP BS G61 0 6V6GT
RG3 N61 G61 1500
RGL3 NBIAS N61 220k
XV4 BP BS G62 0 6V6GT
RG4 N62 G62 1500
RGL4 NBIAS N62 220k
C7 PPI N61 0.1u
C8 JPI N62 0.1u
